US07687503B2
11.3. 2-(methylamino)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1,4-diazepane-1-carboxylate
The process is performed as described in Example 1 (step 1.2.). Starting with 0.95 g (3.70 mmol) of 1-(5-bromo-2-pyridyl)-1,4-diazepane, obtained in step 11.2., and 0.94 g (3.70 mmol) of 2-(methylamino)-2-oxoethyl 4-nitrophenyl carbonate, prepared in step 2.2. of Example 2, and after chromatography on silica gel, eluting with a 30/70 mixture of ethyl acetate and cyclohexane and then with a 95/5 mixture of dichloromethane and methanol, followed by crystallization from diisopropyl ether, 0.97 g of product is obtained in the form of a white solid.

reactant | 1-(5-bromo-2-pyridyl)-1,4-diazepane | 3.70 mmol, 0.95 g | BrC=1C=CC(=NC1)N1CCNCCC1 | C10H14BrN3
reactant | 2-(methylamino)-2-oxoethyl 4-nitrophenyl carbonate | 3.70 mmol, 0.94 g | C(OCC(=O)NC)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C10H10N2O6
product | 2-(methylamino)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1,4-diazepane-1-carboxylate | 0.97 g | BrC=1C=CC(=NC1)N1CCN(CCC1)C(=O)OCC(=O)NC | C14H19BrN4O3
